US07034056B2
To a solution of 4-dimethylamino-2-(4-iodo-phenyl)-butyronitrile (1.02 g, 3.2 mmol) in 2:1 toluene/EtOH (30 mL) was added 2M Na2CO3 (10 mL, 20 mmol), pyridine-4-boronic acid pinacol cyclic ester (1.0 g, 4.9 mmol), and Pd(PPh3)4 (116 mg, 0.31 mmol). The resulting mixture was heated at 90° C. under Ar for 16 h. TLC (10% MeOH/CH2Cl2) showed no starting material left. The mixture was diluted with EtOAc (100 mL), washed with saturated aqueous NaHCO3 (50 mL×3), saturated aqueous NaCl (50 mL×3), dried over Na2SO4 and concentrated by rotary evaporation. The crude residue was purified using silica gel chromatography (2–10% MeOH/CH2Cl2 gradient) to give 4-dimethylamino-2-(4-pyridin-4-yl-phenyl)-butyronitrile as a brown oil, 680 mg (80%). 1H NMR (300 MHz, CDCl3): δ 8.79 (dd, 2H), 7.78 (d, 2H), 7.60 (m, 4H), 4.22 (dd, 1H), 2.61 (m, 1H), 2.46 (m, 1H), 2.37 (s, 6H), 2.24 (m, 1H), 2.15 (m, 1H).

reactant | 4-dimethylamino-2-(4-iodo-phenyl)-butyronitrile | 3.2 mmol, 1.02 g | CN(CCC(C#N)C1=CC=C(C=C1)I)C | C12H15IN2
reactant | toluene EtOH | 30 mL | C1(=CC=CC=C1)C.CCO
reactant | Na2CO3 | 20 mmol, 2M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridine-4-boronic acid pinacol cyclic ester | 4.9 mmol, 1.0 g | B1(OC(C(O1)(C)C)(C)C)C2=CC=NC=C2 | C11H16BNO2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.31 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 4-dimethylamino-2-(4-pyridin-4-yl-phenyl)-butyronitrile | CN(CCC(C#N)C1=CC=C(C=C1)C1=CC=NC=C1)C | C17H19N3
